US03992441
5-morpholinosulfonyl-6-chlorobenzoic acid;
5-diethylaminosulfonyl-6-chlorobenzoic acid; 5-(2-p-chlorophenethylaminosulfonyl)-6-chlorobenzoic acid; 5-hexamethyleneiminosulfonyl-6-fluorobenzoic acid; 5-piperidinosulfonyl-6-fluorobenzoic acid; 5-di-n-propylaminosulfonyl-6-fluorobenzoic acid; 5-(2-p-bromophenethylaminosulfonyl)-6-fluorobenzoic acid; 5-phenylaminosulfonyl-6-bromobenzoic acid; 5-(cis-3,5-dimethylpiperidinosulfonyl)-6-bromobenzoic acid; 5-dimethylaminosulfonyl-6-bromobenzoic acid; 5-hexamethyleneiminosulfonyl-6-bromobenzoic acid; 5-piperidinosulfonyl-6-bromobenzoic acid; 5-(2,4-dimethylpiperidinosulfonyl)-6-methylbenzoic acid; 5-(4,4-dimethylpiperidinosulfonyl)-6 -methylbenzoic acid; 5-(2-p-chlorophenethylaminosulfonyl)-6-methylbenzoic acid; 5-(2,3-dichlorobenzylaminosulfonyl)-6-methylbenzoic acid; 5-di-n-butylaminosulfonyl-6-methylbenzoic acid; and 5-morpholinosulfonyl-6-methylbenzoic acid.

reactant | 5-diethylaminosulfonyl-6-chlorobenzoic acid | C(C)N(S(=O)(=O)C=1C=CC=C(C(=O)O)C1Cl)CC | C11H14ClNO4S
reactant | 5-piperidinosulfonyl-6-fluorobenzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=CC=C(C(=O)O)C1F | C12H14FNO4S
reactant | 5-di-n-propylaminosulfonyl-6-fluorobenzoic acid | C(CC)N(S(=O)(=O)C=1C=CC=C(C(=O)O)C1F)CCC | C13H18FNO4S
reactant | 5-phenylaminosulfonyl-6-bromobenzoic acid | C1(=CC=CC=C1)NS(=O)(=O)C=1C=CC=C(C(=O)O)C1Br | C13H10BrNO4S
reactant | 5-(cis-3,5-dimethylpiperidinosulfonyl)-6-bromobenzoic acid | C[C@@H]1CN(C[C@@H](C1)C)S(=O)(=O)C=1C=CC=C(C(=O)O)C1Br | C14H18BrNO4S
reactant | 5-dimethylaminosulfonyl-6-bromobenzoic acid | CN(S(=O)(=O)C=1C=CC=C(C(=O)O)C1Br)C | C9H10BrNO4S
reactant | 5-piperidinosulfonyl-6-bromobenzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=CC=C(C(=O)O)C1Br | C12H14BrNO4S
reactant | 5-(2,4-dimethylpiperidinosulfonyl)-6-methylbenzoic acid | CC1N(CCC(C1)C)S(=O)(=O)C=1C=CC=C(C(=O)O)C1C | C15H21NO4S
reactant | 5-(4,4-dimethylpiperidinosulfonyl)-6 -methylbenzoic acid | CC1(CCN(CC1)S(=O)(=O)C=1C=CC=C(C(=O)O)C1C)C | C15H21NO4S
reactant | 5-(2,3-dichlorobenzylaminosulfonyl)-6-methylbenzoic acid | ClC1=C(CNS(=O)(=O)C=2C=CC=C(C(=O)O)C2C)C=CC=C1Cl | C15H13Cl2NO4S
reactant | 5-di-n-butylaminosulfonyl-6-methylbenzoic acid | C(CCC)N(S(=O)(=O)C=1C=CC=C(C(=O)O)C1C)CCCC | C16H25NO4S
reactant | 5-morpholinosulfonyl-6-methylbenzoic acid | O1CCN(CC1)S(=O)(=O)C=1C=CC=C(C(=O)O)C1C | C12H15NO5S
product | 5-morpholinosulfonyl-6-chlorobenzoic acid | O1CCN(CC1)S(=O)(=O)C=1C=CC=C(C(=O)O)C1Cl | C11H12ClNO5S
